US04710507
A stirred solution of 2-methoxy-6-(3-pyridyl) quinoline (1.83 g) in 48% aqueous hydrobromic acid (6 cm3) was heated at 100° C. for 1.5 hours. The mixture was then cooled in an ice bath, adjusted with 5M sodium hydroxide solution to pH 8, and continuously extracted with chloroform for 6 hours. The dried (MgSO4) organic extract was then evaporated to give a solid which was recrystallised from methanol-ethyl acetate to afford 6-(3-pyridyl)-2-[1H]-quinolone, m.p. 217°-218°, (0.62 g).

reactant | 2-methoxy-6-(3-pyridyl) quinoline | 1.83 g | COC1=NC2=CC=C(C=C2C=C1)C=1C=NC=CC1 | C15H12N2O
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | hydrobromic acid | 6 cm3 | Br | BrH
product | 6-(3-pyridyl)-2-[1H]-quinolone | N1=CC(=CC=C1)C=1C=C2C=CC(NC2=CC1)=O | C14H10N2O
